US05021413
4-(t-butoxycarbonyl)-3-(pyrrolidine-1-carbonyl)thiomorpholine (3.2 g) was dissolved in 50 ml of methanol. A 4N 1.4-dioxane solution of hydrogen chloride (13.1 ml) was added, and the solution was condensed to yield white crystals. These crystals was recrystallized from ethanol and diethyl ether to give 2.47 g (96%) of 3-(pyrrolidine-1-carbonyl)thiomorpholine monohydrochloride.

reactant | 4-(t-butoxycarbonyl)-3-(pyrrolidine-1-carbonyl)thiomorpholine | 3.2 g | C(C)(C)(C)OC(=O)N1C(CSCC1)C(=O)N1CCCC1 | C14H24N2O3S
reactant | 1.4-dioxane | 4N | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | 13.1 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 3-(pyrrolidine-1-carbonyl)thiomorpholine monohydrochloride | 2.47 g, 96% | Cl.N1(CCCC1)C(=O)C1NCCSC1 | InChI=1S/C9H16N2OS.ClH/c12-9(11-4-1-2-5-11)8-7-13-6-3-10-8;/h8,10H,1-7H2;1H
